US07855292B2
A. 4-Iodo-2-nitro-benzoic acid
In a 1 L three-neck round-bottom flask equipped with an internal thermometer, a reflux condenser, and an addition funnel, Bu4N+MnO4− (124 g, 343 mmol) was dissolved in pyridine (200 mL). The solution was heated to 60° C., and then the heating source was removed. A solution of 4-iodo-2-nitrotoluene (43.0 g, 163 mmol) in pyridine (60 mL) was added through the additional funnel over 2 h. The reaction temperature was maintained at 60° C. by adjusting the addition rate. When the addition was complete, the reaction mixture was cooled to rt. The solution was concentrated, diluted with EtOAc (300 mL) and water (200 mL), and stirred at rt for 30 min. The precipitated brown solid was filtered off and washed with EtOAc. The clear organic layer was washed with 5% aq. H2SO4 (200 mL) and brine (200 mL), dried (MgSO4), and concentrated to afford a thick, brown oil. The crude product was dissolved in EtOAc (200 mL) and then a solution of KOH (9.1 g, 163 mmol) in MeOH (ca. 30 mL) was added dropwise. The mixture was stirred at rt for 1 h, and the precipitated solid was collected by filtration and washed with EtOAc. The filtrate was concentrated and the precipitation was repeated with KOH in MeOH. The two crops were combined and dissolved in water (ca. 250 mL) and acidified with conc. HCl to pH<2. The precipitated white solid was collected by filtration and dried under vacuum to give the desired product (40 g, 136 mmol, 83%, >98% purity by HPLC). 1H NMR (400 MHz, CD3OD): 8.13 (d, J=1.6, 1H), 8.01 (dd, J=8.1, 1.6, 1H), 7.50 (d, J=8.1, 1H).

reactant | 4-iodo-2-nitrotoluene | 163 mmol, 43.0 g | IC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6INO2
reactant | KOH | 163 mmol, 9.1 g | [OH-].[K+]
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
solvent | MeOH | ca. 30 mL | CO | CH4O
product | 4-Iodo-2-nitro-benzoic acid | 136 mmol, 40 g | IC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4INO4
